US09212187B2
N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-phenyl-N-(2-pyridin-3-ylethyl)isobutyramide hydrochloride
To a solution of 1-ethyl-3,3,5-trimethyl-7-{[N-(2-pyridin-3-ylethyl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.5 g), 2-Phenylisobutyric acid(0.24 g), and diisopropylethylamine(0.23 ml) in DMF(10 ml), 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) (0.50 g) was added and stirred at 40° C. for 10 hours. Water was added to the reaction mixture, and stirred for 1 hour, and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane: ethyl acetate=1:1). The purified product was condensed under reduced pressure. A 1N-hydrogen chloride in ethanol solution was added to a 2-propanol solution (5 ml) of the residue, and the liquid was stirred at room temperature, and concentrated under reduced pressure. Ethanol and ether were added to the residue. The precipitated insoluble matter was separated, washed with ether, and dried to give the title compound(0.35 g) as a white amorphous.

reactant | 1-ethyl-3,3,5-trimethyl-7-{[N-(2-pyridin-3-ylethyl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.5 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CNCCC=2C=NC=CC2 | C22H28N4O2
reactant | 2-Phenylisobutyric acid | 0.24 g | C1(=CC=CC=C1)C(C(=O)O)(C)C | C10H12O2
reactant | diisopropylethylamine | 0.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.50 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | hydrogen chloride | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
solvent | Water | O | H2O
product | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-phenyl-N-(2-pyridin-3-ylethyl)isobutyramide hydrochloride | 0.35 g | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(C(C(C)(C)C2=CC=CC=C2)=O)CCC=2C=NC=CC2 | InChI=1S/C32H38N4O3.ClH/c1-7-36-26-16-15-24(20-27(26)34(6)28(37)32(4,5)30(36)39)22-35(19-17-23-12-11-18-33-21-23)29(38)31(2,3)25-13-9-8-10-14-25;/h8-16,18,20-21H,7,17,19,22H2,1-6H3;1H
